US09278951B2
Synthesis of 1-(anthracen-2-ylmethyl)-3-(quinoxalin-2-ylmethyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) will be dissolved in a minimum volume of acetonitrile and stirred at reflux for 30 min. 2-(Bromomethyl)anthracene (2.71 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the KBr generated. 2-(Bromomethyl)quinoxaline (2.23 g, 10.0 mmol) will be added to the filtrate and the mixture will be returned to reflux for 6 h. The volatile components will be removed under reduced pressure to yield the product.

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)anthracene | 10.0 mmol, 2.71 g | BrCC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C15H11Br
reactant | 2-(Bromomethyl)quinoxaline | 10.0 mmol, 2.23 g | BrCC1=NC2=CC=CC=C2N=C1 | C9H7BrN2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(anthracen-2-ylmethyl)-3-(quinoxalin-2-ylmethyl)-4,5-dichloroimidazolium bromide | [Br-].C1=C(C=CC2=CC3=CC=CC=C3C=C12)C[N+]1=CN(C(=C1Cl)Cl)CC1=NC2=CC=CC=C2N=C1 | InChI=1S/C27H19Cl2N4.BrH/c28-26-27(29)33(16-23-14-30-24-7-3-4-8-25(24)31-23)17-32(26)15-18-9-10-21-12-19-5-1-2-6-20(19)13-22(21)11-18;/h1-14,17H,15-16H2;1H/q+1;/p-1
